US07825256B2
(2-Benzo[1,3]dioxol-5-yl-ethyl)-{2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethyl}-amine was prepared following the procedures described in the preparation of Example 127 using benzo[1,3]dioxol-5-yl-acetaldehyde and 2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethylamine. [M+H]+ 421.55; 1H NMR (400 MHz, CDCl3) δ 8.57 (s, 1H), 7.86 (s, 1H), 7.17 (s, 1H), 7.10 (s, 1H), 6.90 (d, 1H), 6.65 (d, 1H), 6.60 (dd, 1H), 5.88 (s, 2H), 3.50 (t, 1H), 3.21 (m, 1H), 2.82-2.64 (m, 5H), 2.50 (s, 3H), 2.40-2.20 (m, 4H), 1.95-1.66 (m, 4H).

reactant | benzo[1,3]dioxol-5-yl-acetaldehyde | O1COC2=C1C=CC(=C2)CC=O | C9H8O3
reactant | 2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethylamine | N1(C=NC=C1)C1=NC(=CC(=N1)C1N(CCC1)CCN)C | C14H20N6
product | (2-Benzo[1,3]dioxol-5-yl-ethyl)-{2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethyl}-amine | O1COC2=C1C=CC(=C2)CCNCCN2C(CCC2)C2=NC(=NC(=C2)C)N2C=NC=C2 | C23H28N6O2
